US08541455B2
To 912 mg of N-tert-butyl-6-[5-oxo-4-(pyridin-3-ylmethyl)-2,5-dihydro-1H-pyrazol-1-yl]pyridine-3-sulfonamide in 20 mL of DCM is added 1 eq. of HCl (4N in dioxane) and the medium is then concentrated under vacuum. 1 g of N-tert-butyl-6-[5-oxo-4-(pyridin-3-ylmethyl)-2,5-dihydro-1H-pyrazol-1-yl]pyridine-3-sulfonamide hydrochloride is obtained in the form of a white powder.

reactant | N-tert-butyl-6-[5-oxo-4-(pyridin-3-ylmethyl)-2,5-dihydro-1H-pyrazol-1-yl]pyridine-3-sulfonamide | 912 mg | C(C)(C)(C)NS(=O)(=O)C=1C=NC(=CC1)N1NC=C(C1=O)CC=1C=NC=CC1 | C18H21N5O3S
reactant | HCl | 4N, 1 eq. | Cl | ClH
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | N-tert-butyl-6-[5-oxo-4-(pyridin-3-ylmethyl)-2,5-dihydro-1H-pyrazol-1-yl]pyridine-3-sulfonamide hydrochloride | 1 g, Yield=100% | Cl.C(C)(C)(C)NS(=O)(=O)C=1C=NC(=CC1)N1NC=C(C1=O)CC=1C=NC=CC1 | InChI=1S/C18H21N5O3S.ClH/c1-18(2,3)22-27(25,26)15-6-7-16(20-12-15)23-17(24)14(11-21-23)9-13-5-4-8-19-10-13;/h4-8,10-12,21-22H,9H2,1-3H3;1H
